US04772600
2-(5-Bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A solution of N-[3-[(5-bromo-2-furanylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester (110 g, 0.30 mole) in ethylene glycol (510 ml) was refluxed under nitrogen for two hours. The solution was cooled to room temperature and water (100 ml) and potassium hydroxide pellets (23.25 g, 0.41 mole) were added. The solution was refluxed for an additional 1.5 hours and then filtered, while hot, into ice water (2 liters). A 3N hydrochloric acid solution was added until the suspension was acidic. After stirring overnight, the solid was collected by filtration and rinsed with water. Most of the wet material was dried at 56° C. overnight under high vacuum to give 79.5 g of crude material (82% yield). A portion (3.0 g of wet material) was dissolved in hot methanol, filtered, and cooled to room temperature. Addition of water caused a solid to precipitate which was collected by filtration, rinsed with water, and dried at high vacuum at 56° C. to give 1.59 g of title compound, mp 229°-231° C.

reactant | N-[3-[(5-bromo-2-furanylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 0.30 mole, 110 g | C(C)OC(CNC1=NC=CC=C1NC(=O)C=1OC(=CC1)Br)=O | C14H14BrN3O4
reactant | water | 100 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | 510 ml | C(CO)O | C2H6O2
solvent | methanol | CO | CH4O
product | 2-(5-Bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 1.59 g | BrC1=CC=C(O1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C12H8BrN3O3
